US04692442
2-[(3S,4R)-4-acetylthio-3-methoxy-2-oxoazetidin-1-yl]-2-hydroxyacetic acid p-nitrobenzyl ester
714 mg of 2-ethoxy-2-hydroxyacetic acid p-nitrobenzyl ester and 4 g of molecular sieve A4 are added to a solution of 245 mg of (3S,4R)-4-acetylthio-3-methoxy-2-oxoazetidine in a mixture of 8 ml of toluene and 2 ml of dimethylformamide and the mixture is stirred overnight at room temperature. The molecular sieves are filtered off from the mixture and the filtrate is concentrated by evaporation in vacuo. The residue is chromatographed over silica gel, and by elution with toluene/ethyl acetate (9:1 and 4:1) the title compound, contamined with some glyoxylate, is obtained.

reactant | 2-ethoxy-2-hydroxyacetic acid p-nitrobenzyl ester | 714 mg | [N+](=O)([O-])C1=CC=C(COC(C(O)OCC)=O)C=C1 | C11H13NO6
reactant | (3S,4R)-4-acetylthio-3-methoxy-2-oxoazetidine | 245 mg | C(C)(=O)S[C@@H]1[C@H](C(N1)=O)OC | C6H9NO3S
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 2-[(3S,4R)-4-acetylthio-3-methoxy-2-oxoazetidin-1-yl]-2-hydroxyacetic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(C(O)N2C([C@@H]([C@H]2SC(C)=O)OC)=O)=O)C=C1 | C15H16N2O8S
